US09034900B2
Step 2: 4-bromo-2-methyl-6-(6-methylpyridin-3-yl)isoquinolin-1-one
Bromine (97 mg, 0.61 mmol) in acetic acid (0.61 mL) was added dropwise to 2-methyl-6-(6-methylpyridin-3-yl)isoquinolin-1-one (160 mg, 0.64 mmol) in acetic acid (6 mL) at 0° C. After stirring at room temperature for 17 min, water (22 mL) was added and the pH was adjusted to 7-8 with 1M NaOH. Extractive work up with ethyl acetate and purification by silica gel chromatography (PE:EA=2:1 to 3:2) gave the title compound (135 mg, 64.3%) as a yellow solid. LCMS: 329.0 (M+H)+

reactant | Bromine | 0.61 mmol, 97 mg | BrBr | Br2
reactant | 2-methyl-6-(6-methylpyridin-3-yl)isoquinolin-1-one | 0.64 mmol, 160 mg | CN1C(C2=CC=C(C=C2C=C1)C=1C=NC(=CC1)C)=O | C16H14N2O
reactant | water | 22 mL | O | H2O
reactant | NaOH | 1M | [OH-].[Na+]
solvent | acetic acid | 0.61 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
product | 4-bromo-2-methyl-6-(6-methylpyridin-3-yl)isoquinolin-1-one | 135 mg, 64.3% | BrC1=CN(C(C2=CC=C(C=C12)C=1C=NC(=CC1)C)=O)C | C16H13BrN2O
